US07304062B2
(Naphthalen-2-yl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of t-butyl carbazate (7.59 g, 57.4 mmol) in ethyl acetate (22 mL) was added with stirring 2-napthaldehyde (8.98 g, 57.5 mmol). This clear yellow solution was stirred at rt for 15 min. Hexanes (105 mL) was added dropwise and solids precipitated from solution. The slurry was cooled to 0° C., the solids were then filtered and rinsed with cold hexanes (20 mL). A second crop of solids was obtained from the filtrate, filtered and combined with the first crop. The combined solids were recrystallized (EtOAc) and filtered. A second crop was collected by concentrating the filtrate to half its original volume and filtering the resulting solids at 0° C. The two crops of solids were combined and dried in vacuo at 40° C. to afford the title compound as a solid (13.17 g, 85.0%): mp 182.1-190° C. (dec.); 1H NMR (DMSO-d6) δ 11.04 (s, 1H), 8.17 (s, 1H), 7.99 (s, 1H), 7.93-7.86 (m, 4H), 7.52-7.49 (m, 2H), 1.47 (s, 9H); 13C N (DMSO-d6) δ 153.1, 143.9, 134.1, 133.6, 133.1, 129.1, 128.9, 128.5, 128.4, 127.5, 127.3, 123.1, 80.1, 28.8; IR (CHCl3) 3061, 3010, 2982, 1733, 1505, 1369 cm−1; Anal. Calcd. for C16H18N2O2: C, 71.09; H, 6.71; N, 10.36. Found: C, 70.95; H, 6.89; N, 10.31.

reactant | t-butyl carbazate | 57.4 mmol, 7.59 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 2-napthaldehyde | 57.5 mmol, 8.98 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | ethyl acetate | 22 mL | C(C)(=O)OCC | C4H8O2
product | (Naphthalen-2-yl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester | 13.17 g, 85.0% | C1=C(C=CC2=CC=CC=C12)C=NNC(=O)OC(C)(C)C | C16H18N2O2
